US05264439
Step B: Preparation of methyl 2-(4-methylphenoxy)phenylacetate
To a suspension of KH (212 mg, 1.0 eq) in DMF (3 mL) was added a solution of p-cresol (200 mg; 1.85 mmol) in DMF (2 mL) followed by 18-crown-6 (50 mg, 0.2 eq). After stirring the reaction 45 minutes until the foaming subsides, a solution of methyl 2-bromophenylacetate (424 mg, 1.0 eq) in DMF (1 mL) was added, resulting in a purple solution that slowly faded to yellow. The reaction mixture was stirred 2.5 hours and was then concentrated in vacuo. The residue was chromatographed on a flash silica column (130×30 mm) eluted with 5% ethyl actate/hexane to yield 281 mg (62%) of the title compound (Rf =0.38, 5% ethyl acetate/hexane).

reactant | p-cresol | 1.85 mmol, 200 mg | C1=CC(=CC=C1O)C | C7H8O
reactant | 18-crown-6 | 50 mg, 0.2 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | methyl 2-bromophenylacetate | 424 mg, 1.0 eq | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | methyl 2-(4-methylphenoxy)phenylacetate | 281 mg | CC1=CC=C(OC2=C(C=CC=C2)CC(=O)OC)C=C1 | C16H16O3
